US06140351
To a solution of 3-chloro-4-chloromethyl-2-(chlorocarbonyl)thiophene (3.1 g, 13.5 mmol) in methylene chloride (40 mL) at 0° C. was added N-(4-chlorophenyl)-2-amino-5-chlorobenzamide (3.8 g, 13.5 mmol), followed after 5 minutes by pyridine (1.6 mL, 16 mmol). The mixture was warmed to ambient temperature. After 17 hours, the mixture was concentrated of all volatiles in vacuo. The resulting solid was triturated with water and a small amount of acetonitrile and dried in vacuo to afford 5.1 g (80% yield) of N-(4-chlorophenyl)-2-[((4-(chloromethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide as a tan powder: NMR (DMSO-d6) 11.1 (s, 1), 10.8 (s, 1), 8.3 (d, 1), 8.2 (s, 1), 7.9 (s, 1), 7.7 (d, 2), 7.6 (dd, 1), 7.4 (d, 2), 4.8 (s, 2) ppm.

reactant | 3-chloro-4-chloromethyl-2-(chlorocarbonyl)thiophene | 13.5 mmol, 3.1 g | ClC1=C(SC=C1CCl)C(=O)Cl | C6H3Cl3OS
reactant | N-(4-chlorophenyl)-2-amino-5-chlorobenzamide | 13.5 mmol, 3.8 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)N)=O | C13H10Cl2N2O
reactant | pyridine | 16 mmol, 1.6 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | N-(4-chlorophenyl)-2-[((4-(chloromethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 5.1 g, 80% yield | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC=C(C1Cl)CCl)=O | C19H12Cl4N2O2S
